US04061498
1-(2,4,6-trichlorophenyl)-2-phenoxycarbonyl-3-(2-chloro-5-myristoylamino-anilino)-3-pyrazolin-5-one
A solution of 30.7 g (0.05 mole) of 1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-myristoylamino-anilino)-2-pyrazolin-5-one and 15.6 g (0.1 mole) of phenyl chloroformiate in 100 ml of acetonitrile are refluxed for 4 h. The solution is poured out in water and the separated oil is stirred first with water and next with methanol. The precipitate is recrystallized from ethanol.

reactant | 1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-myristoylamino-anilino)-2-pyrazolin-5-one | 0.05 mole, 30.7 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(CC1=O)NC1=C(C=CC(=C1)NC(CCCCCCCCCCCCC)=O)Cl | C29H36Cl4N4O2
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(2,4,6-trichlorophenyl)-2-phenoxycarbonyl-3-(2-chloro-5-myristoylamino-anilino)-3-pyrazolin-5-one | ClC1=C(C(=CC(=C1)Cl)Cl)N1N(C(=CC1=O)NC1=C(C=CC(=C1)NC(CCCCCCCCCCCCC)=O)Cl)C(=O)OC1=CC=CC=C1 | C36H40Cl4N4O4
